US07910592B2
Step B: benzyl {(1S)-2-[3,5-bis(trifluoromethyl)phenyl]-1-methyl-2-oxoethyl}carbamate
Benzyl {(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate (6 kg, 22.5 mol) and 3,5-bis(trifluoromethyl)bromobenzene (4.85 L, 28.1 mol) are dissolved in anhydrous THF (24 L). The solution is purged with nitrogen to remove distilled oxygen. The solution is cooled to −10° C. and i-PrMgCl in THF (56.4 mol) is slowly added (2 h) to the reaction via addition funnel, maintaining a reaction temperature ≦−5° C. The solution is allowed to warm to 20° C. and aged overnight at 20° C. The reaction is then cooled to −10° C. under nitrogen and is quenched slowly over 2 h into 5N HCl (14 L) that is maintained at 0-5° C. MTBE (60 L) is added and the biphasic mixture is agitated for 5 min. After warming to 20-25° C., it is allowed to settle for 30 min, and then the layers are separated. The organic layer is washed with water twice (12 L).

reactant | Benzyl {(1S)-2-[methoxy(methyl)amino]-1-methyl-2-oxoethyl}carbamate | 22.5 mol, 6 kg | CON(C([C@H](C)NC(OCC1=CC=CC=C1)=O)=O)C | C13H18N2O4
reactant | 3,5-bis(trifluoromethyl)bromobenzene | 28.1 mol, 4.85 L | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | i-PrMgCl | C(C)(C)[Mg]Cl
solvent | THF | 24 L | C1CCOC1 | C4H8O
solvent | THF | 56.4 mol | C1CCOC1 | C4H8O
product | benzyl {(1S)-2-[3,5-bis(trifluoromethyl)phenyl]-1-methyl-2-oxoethyl}carbamate | FC(C=1C=C(C=C(C1)C(F)(F)F)C([C@H](C)NC(OCC1=CC=CC=C1)=O)=O)(F)F | C19H15F6NO3
